US05045557
A solution of 2-cyano-4-(2,4-dichlorophenyl)imidazole (1.0 g) in tetrahydrofuran (30 ml) was treated with sodium hydride (0.16 g of 80% dispersion in oil) at 0°. A solution of tetramethylphosphorodiamidic chloride (0.89 g) in tetrahydrofuran (10 ml) was added dropwise and the mixture stirred for 11/2 hours under nitrogen. It was then poured into water, stirred, and the precipitate filtered, dried and recrystalllsed from toluene/hexane to give 1-[bis(dimethylamino)phosphinyl]-2-cyano-4-(2,4-dichlorophenyl)imidazole, m.p. 140.5°-1°. (Compound 6).

reactant | 2-cyano-4-(2,4-dichlorophenyl)imidazole | 1.0 g | C(#N)C=1NC=C(N1)C1=C(C=C(C=C1)Cl)Cl | C10H5Cl2N3
reactant | sodium hydride | 0.16 g | [H-].[Na+]
reactant | tetramethylphosphorodiamidic chloride | 0.89 g | CN(P(=O)(N(C)C)Cl)C | C4H12ClN2OP
reactant | water | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-[bis(dimethylamino)phosphinyl]-2-cyano-4-(2,4-dichlorophenyl)imidazole | CN(C)P(=O)(N1C(=NC(=C1)C1=C(C=C(C=C1)Cl)Cl)C#N)N(C)C | C14H16Cl2N5OP
